US09034929B2
Catalytic hydrogenation of the 3-nitro-4-octanol to the 3-amino-4-octanol alkanolamine A sample of 3-amino-4-octanol (3A4O) was synthesized by the reduction of the 3-nitro-4-octanol by a Parr Autoclave unit. The stainless steel, 2 liter autoclave was loaded with Grace 3201 Raney Nickel (RaNi, 90 g wet, 45 g dry, 10 wt %) and methanol (MeOH, 300 g). The autoclave was sealed, assembled, purged with nitrogen then hydrogen, pressurized with hydrogen (600 psig), stirred at 600 RPM, and warmed to 40° C. The nitro-alcohol (491 g) was diluted with absolute ethanol (EtOH, 150 g) and pumped into the autoclave (4 ml/min) After 3.5 h the addition was complete and after 4 h the reaction was judged complete as no hydrogen uptake was observed. The autoclave was cooled, stirring stopped, vented, and purged with nitrogen. The autoclave was disassembled and the contents were vacuum filtered to remove the RaNi catalyst. This resulted in the isolation of a light yellow liquid (92 area %) that was concentrated in vacuo (55° C./full vacuum) before product was taken overhead (57-62° C./full vacuum). This resulted in the isolation of a clear, colorless, semi-solid (344 g, 95.3 area %, 75% overall yield) that contained some oxazolidine (2.2 area %) and some secondary amines (0.5 area %).

reactant | 3-nitro-4-octanol | [N+](=O)([O-])C(CC)C(CCCC)O | C8H17NO3
reactant | oxazolidine | O1CNCC1 | C3H7NO
catalyst | Raney Nickel | 90 g | [Ni] | Ni
solvent | methanol | 300 g | CO | CH4O
product | 3-amino-4-octanol | NC(CC)C(CCCC)O | C8H19NO
